US06121285
(3R,4S)-4-(1-Ethoxycarbonylcyclopropyl)-3-methyl-1-[(S)-1-phenylethyl]-2-pyrrolidone
The following reaction was carried out under a nitrogen atmosphere. At -78° C., n-butyl lithium (5.39 ml, 1.68 N, n-hexane solution, 9.06 mmol) was added dropwise to a tetrahydrofuran solution (40 ml) of diisopropylethylamine (1.37 ml, 9.75 mmol), and the mixture was warmed to 0° C. and stirred for 30 minutes. At -78° C., to this was further added dropwise a tetrahydrofuran solution (20 ml) of (4S)-4-(1-ethoxycarbonylcyclopropyl)-1-[(S)-1-phenylethyl]-2-pyrrolidone (2.10 g, 6.97 mmol). After an additional 15 minutes of stirring, methyl iodide (2.17 ml, 34.8 mmol) was added dropwise thereto, and the mixture was stirred for 30 minutes while warming to 0° C. After completing the reaction, this was cooled in an ice bath and mixed with a saturated ammonium chloride aqueous solution (150 ml) and then tetrahydrofuran was evaporated. The resulting residue was extracted with chloroform (150 ml×3), and the organic layer was dried over anhydrous sodium sulfate. After evaporating the solvent, the resulting residue was purified by a silica gel column chromatography (silica gel, 160 ml; ethyl acetate:hexane=2:3), to thereby obtain 1.90 g (87%) of the title compound.

reactant | n-butyl lithium | 9.06 mmol, 1.68 N, 5.39 ml | C(CCC)[Li]
reactant | diisopropylethylamine | 9.75 mmol, 1.37 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (4S)-4-(1-ethoxycarbonylcyclopropyl)-1-[(S)-1-phenylethyl]-2-pyrrolidone | 6.97 mmol, 2.10 g | C(C)OC(=O)C1(CC1)[C@@H]1CC(N(C1)[C@@H](C)C1=CC=CC=C1)=O | C18H23NO3
reactant | methyl iodide | 34.8 mmol, 2.17 ml | CI | CH3I
reactant | ammonium chloride | 150 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | (3R,4S)-4-(1-Ethoxycarbonylcyclopropyl)-3-methyl-1-[(S)-1-phenylethyl]-2-pyrrolidone | 1.90 g, 87% | C(C)OC(=O)C1(CC1)[C@@H]1[C@H](C(N(C1)[C@@H](C)C1=CC=CC=C1)=O)C | C19H25NO3
